US06350749B1
To a solution of 2-chloro-5-fluorotoluene (5.0 g) in acetic anhydride (40 ml) was added dropwise under ice-cooling concentrated sulfuric acid (40 ml), and then added dropwise a solution of anhydrous chromic acid (9.3 g) in acetic anhydride (40 ml) for 2 hours. The mixture was stirred at the same temperature for 1 hour, poured into ice-water and extracted with diethylether. The organic layer was washed with sodium carbonate solution, water and saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in tetrahydrofuran (10 ml). To the mixture were added water (4 ml) and concentrated sulfuric acid (4 ml), and the mixture was stirred at 100° C. for 30 minutes and cooled. The reaction solution was extracted with ethyl acetate. The organic layer was washed with sodium carbonate solution, water and saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give the residue, which was subjected to silica gel column chromatography to give 2-chloro-5-fluorobenzaldehyde (1.6 g).

reactant | 2-chloro-5-fluorotoluene | 5.0 g | ClC1=C(C=C(C=C1)F)C | C7H6ClF
reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | chromic acid | 9.3 g | [Cr](=O)(=O)(O)O
solvent | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-chloro-5-fluorobenzaldehyde | 1.6 g | ClC1=C(C=O)C=C(C=C1)F | C7H4ClFO
